US05736068
95.1 g (0.69 mol) of potassium carbonate and 321.2 g of methyl isobutyl ketone were added to 137.64 g (1.25 mol) of pyrocatechol and 188.63 g (1.25 mol) of 1-bromopentane, and the mixture was then refluxed for 23 hours. The mixture was cooled, after which the potassium carbonate was filtered off and the methyl isobutyl ketone was distilled off under reduced pressure. The oily residue was then subjected to fractional distillation over a short column under reduced pressure from an oil pump. 127.3 g of 1-hydroxy-2-pentoxybenzene were obtained at 5 bar and a boiling point of 88°-92° C.

reactant | potassium carbonate | 0.69 mol, 95.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrocatechol | 1.25 mol, 137.64 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 1-bromopentane | 1.25 mol, 188.63 g | BrCCCCC | C5H11Br
solvent | methyl isobutyl ketone | 321.2 g | C(C(C)C)C(=O)C | C6H12O
product | 1-hydroxy-2-pentoxybenzene | 127.3 g | OC1=C(C=CC=C1)OCCCCC | C11H16O2
